US07476663B2
(a) 3-chloro-propyl 2-methyl-4-nitro-phenyl-carbamate
Prepared analogously to Example 51b from 4-isocyanato-3-methyl-1-nitro-benzene and 3-chloro-propan-1-ol in toluene.

reactant | 4-isocyanato-3-methyl-1-nitro-benzene | N(=C=O)C1=C(C=C(C=C1)[N+](=O)[O-])C | C8H6N2O3
reactant | 3-chloro-propan-1-ol | ClCCCO | C3H7ClO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-chloro-propyl 2-methyl-4-nitro-phenyl-carbamate | CC1=C(C=CC(=C1)[N+](=O)[O-])NC(OCCCCl)=O | C11H13ClN2O4
